Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-1.11925628746
[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])=[C:12]1[H:13]>>[H:1][C:2]([H:3])=[C:12](/[C:10](=[C:8](/[C:6](=[C:4][H:5])[H:7])[H:9])[H:11])[H:13],1.08396388983
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13],1.33219598129
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[H:7].[O:1]=[C:2]=[C:3][O:4][C:5][H:6],5.17872633168
[O:1]([C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-2.93491471178
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.46968147247
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-5.09586668498
[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7]1=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:7]([O:6][C:4][H:5])=[C:8]([H:9])[H:10],0.254958540801
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10],5.57376975196
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3][C:5]([H:6])[H:7].[H:4],2.82975525274
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.41810338185
[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.1818287146
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[O:1][O:2][C:3][H:4],5.91181607651
[O:1]=[C:2]([C:3][H:4])[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3][H:4].[O:1]=[C:2]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],3.96894905764
[C:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9],6.33122099628
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.7277963359900002
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],-0.786629081681
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][C:13]([H:14])([H:15])[H:16],1.82881743477
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.56405442976
[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],-3.08387481903
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5],3.99075883758
[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1].[O:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],0.6732077903399999
[C:5][H:6].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5][H:6],-4.70219854355
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:3],4.965651984019999
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.61256426346
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.27341224246
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4],6.53204487918
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1],5.745629654889997
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])[H:9],2.43548696321
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.03106315497
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8],4.82064992832
